US06670391B2
Synthesis of 3-(4-methylpentyloxy)-4-hydroxy-5-(2-hydroxyethoxy)-2H-1-benzopyran-2-one (Compound (12))
In the same manner as in Example 1, except that an equimolar amount of 3-(4-methylpentyloxy)-4-hydroxy-5-(2-acetoxyethoxy)-2H-1-benzopyran-2-one was used in place 3-ethoxy-4-hydroxy-5-(2-acetoxyethoxy)-2H-1-benzopyran-2-one in Example 1, the titled compound was obtained.

reactant | 3-(4-methylpentyloxy)-4-hydroxy-5-(2-acetoxyethoxy)-2H-1-benzopyran-2-one | CC(CCCOC=1C(OC2=C(C1O)C(=CC=C2)OCCOC(C)=O)=O)C | C19H24O7
reactant | 3-ethoxy-4-hydroxy-5-(2-acetoxyethoxy)-2H-1-benzopyran-2-one | C(C)OC=1C(OC2=C(C1O)C(=CC=C2)OCCOC(C)=O)=O | C15H16O7
product | 3-(4-methylpentyloxy)-4-hydroxy-5-(2-hydroxyethoxy)-2H-1-benzopyran-2-one | CC(CCCOC=1C(OC2=C(C1O)C(=CC=C2)OCCO)=O)C | C17H22O6
